US05409956
Preparation of benzyl-4-(indan-2-yl)-2-butenoate:
3.97 g (24.8 mmol) of (indan-2-yl)acetaldehyde was dissolved in 50 ml of methylene chloride, to which was added 12.2 g (29.8 mmol) of benzyloxycarbonylmethylene triphenyl phosphorane and stirred for 1.5 hours. The solvent was distilled off and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:20) to obtain 6.45 g colorless oil. Yield: 89%

reactant | (indan-2-yl)acetaldehyde | 24.8 mmol, 3.97 g | C1C(CC2=CC=CC=C12)CC=O | C11H12O
reactant | benzyloxycarbonylmethylene triphenyl phosphorane | 29.8 mmol, 12.2 g | C(C1=CC=CC=C1)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H23O2P
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | benzyl-4-(indan-2-yl)-2-butenoate | 6.45 g, Yield: 89% | C(C1=CC=CC=C1)OC(C=CCC1CC2=CC=CC=C2C1)=O | C20H20O2
